US04795755
maleate, m.p. 182°-184° (yield 25%). The 4-[4-(2-[2,2,3,3-tetrafluoropropyl]guanidino)pyrimid-2-yloxy]butyramidine used as starting material may be prepared as follows. The second, third and fourth parts of Example 34 in European Patent Publication No.30092 were repeated, using 2,2,3,3-tetrafluoropropylisothiocyanate in place of 2,2,2-trifluoroethylisothiocyanate, to give 4-[2-(2,2,3,3-tetrafluoropropyl)guanidino]-2methylsulphinylpyrimidine. Using this intermediate, and 3-cyanopropanol in place of 4-cyanobutanol, the second, third and fourth parts of Example 24 were repeated to give the required starting material.

reactant | maleate | C(\C=C/C(=O)[O-])(=O)[O-]
reactant | 4-[4-(2-[2,2,3,3-tetrafluoropropyl]guanidino)pyrimid-2-yloxy]butyramidine | FC(CN=C(NC1=NC(=NC=C1)OCCCC(=N)N)N)(C(F)F)F | C12H17F4N7O
reactant | 2,2,3,3-tetrafluoropropylisothiocyanate | FC(CN=C=S)(C(F)F)F | C4H3F4NS
product | 4-[2-(2,2,3,3-tetrafluoropropyl)guanidino]-2methylsulphinylpyrimidine | yield 25% | FC(CN=C(NC1=NC(=NC=C1)S(=O)C)N)(C(F)F)F | C9H11F4N5OS
